US05369196
The obtained tris(pentafluorophenyl)boron (41 mmol) was reacted with 41 mmol of pentafluorophenyllithium, to isolate lithium tetrakis(pentafluorophenyl)borate as a white solid product.

reactant | tris(pentafluorophenyl)boron | 41 mmol | FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C18BF15
reactant | pentafluorophenyllithium | 41 mmol | FC1=C(C(=C(C(=C1[Li])F)F)F)F
product | lithium tetrakis(pentafluorophenyl)borate | FC1=C(C(=C(C(=C1[B-](C1=C(C(=C(C(=C1F)F)F)F)F)(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.[Li+] | InChI=1S/C24BF20.Li/c26-5-1(6(27)14(35)21(42)13(5)34)25(2-7(28)15(36)22(43)16(37)8(2)29,3-9(30)17(38)23(44)18(39)10(3)31)4-11(32)19(40)24(45)20(41)12(4)33;/q-1;+1
